US08877751B2
Preparation of 3-{3-[5-(3-dimethylaminopropoxy)pyrimidin-2-yl]benzyl}-5-trifluoromethyl-3H-benzothiazol-2-one (“A5”)
A suspension of 114 mg (0.52 mmol) of 5-trifluoromethyl-3H-benzothiazol-2-one, 150 mg (0.52 mmol) of {3-[5-(3-dimethylaminopropoxy)pyrimidin-2-yl]phenyl}methanol and 261 mg (0.78 mmol) of polymer-bound triphenylphosphine (3mmol/g) is shaken at room temperature for 30 min. 178 mg (0.78 mmol) of di-tert-butyl azodicarboxylate are added to the suspension, and, after the mixture has been stirred at room temperature for 24 h, 50 mg (0.15 mmol) of polymer-bound triphenylphosphine (3 mmol/g) and 35 mg (0.15 mmol) of di-tert-butyl azodicarboxylate are again present and shaken at room temperature for 2 h. The reaction mixture is filtered, the filtrate is evaporated to dryness, and the residue is purified by means of preparative HPLC. The product is in the form of the trifluoroacetate; ESI: 489 (M+H); Rt.=2.81 min (method A);

reactant | 5-trifluoromethyl-3H-benzothiazol-2-one | 0.52 mmol, 114 mg | FC(C=1C=CC2=C(NC(S2)=O)C1)(F)F | C8H4F3NOS
reactant | {3-[5-(3-dimethylaminopropoxy)pyrimidin-2-yl]phenyl}methanol | 0.52 mmol, 150 mg | CN(CCCOC=1C=NC(=NC1)C=1C=C(C=CC1)CO)C | C16H21N3O2
reactant | triphenylphosphine | 0.78 mmol, 261 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butyl azodicarboxylate | 0.78 mmol, 178 mg | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
reactant | triphenylphosphine | 0.15 mmol, 50 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butyl azodicarboxylate | 0.15 mmol, 35 mg | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
product | 3-{3-[5-(3-dimethylaminopropoxy)pyrimidin-2-yl]benzyl}-5-trifluoromethyl-3H-benzothiazol-2-one | CN(CCCOC=1C=NC(=NC1)C=1C=C(CN2C(SC3=C2C=C(C=C3)C(F)(F)F)=O)C=CC1)C | C24H23F3N4O2S
